US07776869B2
To a yellow solution of (S)-tert-butyl 1-(2-(5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluorobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate (0.397 g, 0.65 mmol) in 3 mL dioxane at 0 deg. C. was added hydrogen chloride 4.0 M in dioxane (1.6 ml, 6.5 mmol). The reaction was allowed to warm to ambient temp, as the clump, which formed would not go into solution. 3 mL of CH2Cl2, was added followed by 5 mL MeOH to give a homogenous yellow solution. After 30 min, the solution was concentrated in vacuo to give a yellow solid, which was treated with 1N NaOH and EtOAc. The organic layer was washed twice with 1N NaOH, dried over anhyd. Na2SO4, filtered, and concentrated in vacuo to give (S)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(3-(methylamino)piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide as a light yellow solid. MS m/z=513 [M+H]+. Calc'd for C26H24F4N6O: 512.

reactant | (S)-tert-butyl 1-(2-(5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluorobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | 0.65 mmol, 0.397 g | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@H](CCC2)N(C(OC(C)(C)C)=O)C)C1)F | C31H32F4N6O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.5 mmol, 1.6 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(3-(methylamino)piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@H](CCC2)NC)C1)F | C26H24F4N6O
